* NGSPICE file created from test_1.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_12 abstract view
.subckt sky130_fd_sc_hd__decap_12 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_16 abstract view
.subckt sky130_fd_sc_hd__clkbuf_16 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfrtp_1 abstract view
.subckt sky130_fd_sc_hd__dfrtp_1 CLK D RESET_B VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a2bb2o_1 abstract view
.subckt sky130_fd_sc_hd__a2bb2o_1 A1_N A2_N B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

.subckt test_1 clk rst val[0] val[1] VPWR VGND
XFILLER_0_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_6_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_3_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_6_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_9_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_1_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_0_clk clk VGND VGND VPWR VPWR clkbuf_0_clk/X sky130_fd_sc_hd__clkbuf_16
XFILLER_4_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_10_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_9_ _9_/CLK _9_/D _7_/X VGND VGND VPWR VPWR _9_/Q sky130_fd_sc_hd__dfrtp_1
XFILLER_10_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 rst VGND VGND VPWR VPWR _4_/A sky130_fd_sc_hd__clkbuf_1
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_8_ _8_/CLK _8_/D _7_/A VGND VGND VPWR VPWR _8_/Q sky130_fd_sc_hd__dfrtp_1
XFILLER_4_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_7_ _7_/A VGND VGND VPWR VPWR _7_/X sky130_fd_sc_hd__clkbuf_1
XFILLER_10_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
X_6_ _8_/D _9_/Q _8_/D _9_/Q VGND VGND VPWR VPWR _9_/D sky130_fd_sc_hd__a2bb2o_1
XFILLER_7_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_10_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_5_ _8_/Q VGND VGND VPWR VPWR _8_/D sky130_fd_sc_hd__inv_2
XFILLER_7_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
X_4_ _4_/A VGND VGND VPWR VPWR _7_/A sky130_fd_sc_hd__inv_2
XFILLER_7_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_4_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_10_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xclkbuf_1_1_0_clk clkbuf_0_clk/X VGND VGND VPWR VPWR _9_/CLK sky130_fd_sc_hd__clkbuf_1
XFILLER_2_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xclkbuf_1_0_0_clk clkbuf_0_clk/X VGND VGND VPWR VPWR _8_/CLK sky130_fd_sc_hd__clkbuf_1
XFILLER_8_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_2_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_11_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_8_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_10_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_11_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_11_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_11_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_2_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_2_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_8_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_11_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_28 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_5_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xoutput2 _8_/Q VGND VGND VPWR VPWR val[0] sky130_fd_sc_hd__clkbuf_2
XFILLER_7_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_6_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput3 _9_/Q VGND VGND VPWR VPWR val[1] sky130_fd_sc_hd__clkbuf_2
XFILLER_6_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_3_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
.ends

