* NGSPICE file created from test_2.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_12 abstract view
.subckt sky130_fd_sc_hd__decap_12 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_2 abstract view
.subckt sky130_fd_sc_hd__nor2_2 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

.subckt test_2 a[0] a[1] b[0] b[1] f_and[0] f_and[1] f_xor[0] f_xor[1] VPWR VGND
XFILLER_3_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput7 _10_/Y VGND VGND VPWR VPWR f_xor[0] sky130_fd_sc_hd__clkbuf_2
XFILLER_0_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xoutput8 _11_/Y VGND VGND VPWR VPWR f_xor[1] sky130_fd_sc_hd__clkbuf_2
XFILLER_3_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_6_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_3_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_11_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_09_ _09_/A _09_/B VGND VGND VPWR VPWR _09_/Y sky130_fd_sc_hd__nor2_2
X_08_ _08_/A VGND VGND VPWR VPWR _09_/B sky130_fd_sc_hd__inv_2
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_9_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
X_07_ _07_/A VGND VGND VPWR VPWR _09_/A sky130_fd_sc_hd__inv_2
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_10_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_06_ _06_/A _06_/B VGND VGND VPWR VPWR _06_/Y sky130_fd_sc_hd__nor2_2
XFILLER_1_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_1_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_05_ _05_/A VGND VGND VPWR VPWR _06_/B sky130_fd_sc_hd__inv_2
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_04_ _04_/A VGND VGND VPWR VPWR _06_/A sky130_fd_sc_hd__inv_2
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
Xinput1 a[0] VGND VGND VPWR VPWR _05_/A sky130_fd_sc_hd__buf_1
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput2 a[1] VGND VGND VPWR VPWR _08_/A sky130_fd_sc_hd__clkbuf_1
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput3 b[0] VGND VGND VPWR VPWR _04_/A sky130_fd_sc_hd__clkbuf_1
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput4 b[1] VGND VGND VPWR VPWR _07_/A sky130_fd_sc_hd__buf_1
XFILLER_6_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_7_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_10_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_7_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_4_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_10_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_42 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_5_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_4_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_11_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_5_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_8_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_11_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_2_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_8_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_8_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_11_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
X_11_ _09_/A _09_/B _09_/Y VGND VGND VPWR VPWR _11_/Y sky130_fd_sc_hd__a21oi_1
XFILLER_11_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XPHY_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_10_ _06_/A _06_/B _06_/Y VGND VGND VPWR VPWR _10_/Y sky130_fd_sc_hd__a21oi_1
XFILLER_3_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_31 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_6_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput5 _06_/Y VGND VGND VPWR VPWR f_and[0] sky130_fd_sc_hd__clkbuf_2
XFILLER_5_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_12
XFILLER_9_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xoutput6 _09_/Y VGND VGND VPWR VPWR f_and[1] sky130_fd_sc_hd__clkbuf_2
.ends

